US05104989
(S)-(-)-N-1-Phenylethyl-N-(butoxymethyl)trimethylsilylmethylamine (IV, R1 =H, R2 =Me, R3 =Ph, R4 =Bu)
The title compound was prepared from (S)-(-)-N-1-phenylethyl-N-trimethylsilylmethylamine by reaction with n-butanol and aqueous formaldehyde following the procedure of Example 2 to give the crude acetal (85% pure) as a colourless oil (7.1 g, 80%) δC (CD2Cl2)-1.09 (SiMe3), 14.35, 20.16, 24.72, 67.38 (OBu), 19.57 (CMe), 40.30 (NCH2Si), 62.30 (CH), 84.73 (NCH2O), 127.01, 128.15, 128.51, 146.15 (Ph).

reactant | (S)-(-)-N-1-phenylethyl-N-trimethylsilylmethylamine | C1(=CC=CC=C1)[C@H](C)NC[Si](C)(C)C | C12H21NSi
reactant | formaldehyde | C=O | CH2O
solvent | n-butanol | C(CCC)O | C4H10O
product | (S)-(-)-N-1-Phenylethyl-N-(butoxymethyl)trimethylsilylmethylamine | C1(=CC=CC=C1)[C@H](C)N(COCCCC)C[Si](C)(C)C | C17H31NOSi
